US06329370B1
4-(6-Methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyramide (Compound 68)
A suspension of 4-(6-methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyric acid methyl ester (1.2 g, 3.5 mmoles), prepared as described in example 115, in NH3/THF (10 ml) was added with THF (15 ml), then placed in autoclave at 85° C. After 1 night the mixture was dried, taken up in CH3OH (30 ml) and saturated with NH3 at 0° C., then heated at 85° C. for 44 hours. The mixture was cooled and dried to give a residue which was chromatographed (eluent: CH2Cl2/CH3OH 95:5 to 90:10). The solid was triturated in CH2Cl2 to give 840 mg of the title compound (yield: 73.1%)

reactant | 4-(6-methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyric acid methyl ester | 3.5 mmoles, 1.2 g | COC(CCCC1=NN=C(C2=CC(=CC=C12)OC)C=1SC=CN1)=O | C17H17N3O3S
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | NH3 THF | 10 ml | N.C1CCOC1
product | 4-(6-Methoxy-4-thiazol-2-yl-phthalazin-1-yl)-butyramide | 840 mg, yield: 73.1% | COC=1C=C2C(=NN=C(C2=CC1)CCCC(=O)N)C=1SC=CN1 | C16H16N4O2S
